US05852011
3-Fluoro-4-[N,N-bis(2-hydroxyethyl)]aminonitrobenzene
In 4 ml of DMSO, 5.0 g (31.4 mmol) of 3,4-difluoronitrobenzene and 8.3 g (78.5 mmol) of diethanolamine were dissolved, followed by stirring under heat at 140° C. for one hour. After completion of the reaction, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was dried and concentrated. To the reddish brown syrup so obtained, n-hexane/ethyl acetate was added for crystallization, whereby 6.93 g of the title compound were obtained as yellow powder (yield: 90%).

reactant | 3,4-difluoronitrobenzene | 31.4 mmol, 5.0 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | diethanolamine | 78.5 mmol, 8.3 g | N(CCO)CCO | C4H11NO2
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 3-Fluoro-4-[N,N-bis(2-hydroxyethyl)]aminonitrobenzene | 6.93 g | FC=1C=C(C=CC1N(CCO)CCO)[N+](=O)[O-] | C10H13FN2O4
